US04348521
A mixture of 13.8 g of ethyl 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H, 7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate and 600 ml of three percent sodium hydroxide solution was heated on a steam bath for five hours. The solution was treated with decolorizing charcoal, filtered and neutralized to pH 7 with acetic acid. The product was separated by filtration, washed with water and recrystallized from N,N-dimethylformamide to provide yellow crystals of 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H,7H-pyrido[1,2,3-de]-quinoxaline-6-carboxylic acid, m.p. 243°-245° C. Analysis: Calculated for C14H13ClN2O3 : %C, 57.5; %H, 4.5; %N, 9.6. Found %C, 58.0; %H, 4.3; %N, 9.7.

reactant | ethyl 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H, 7H-pyrido[1,2,3-de]quinoxaline-6-carboxylate | 13.8 g | ClC1=CC=C2C=3N(C(CN(C13)C)C)C=C(C2=O)C(=O)OCC | C16H17ClN2O3
reactant | charcoal | C | CH4
solvent | sodium hydroxide | 600 ml | [OH-].[Na+]
product | 10-chloro-2,3-dihydro-1,3-dimethyl-7-oxo-1H,7H-pyrido[1,2,3-de]-quinoxaline-6-carboxylic acid | ClC1=CC=C2C=3N(C(CN(C13)C)C)C=C(C2=O)C(=O)O | C14H13ClN2O3
